US07176242B2
3-(2-{3-[({(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]phenyl}-1,3-oxazol-5-yl)propanoic acid
Methyl 3-(2-{3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]phenyl}-1,3-oxazol-5-yl)propanoate (70 mg, 0.12 mmol) and lithium hydroxide monohydrate (10 mg, 0.24 mmol) in 2:1:1 tetrahydrofuran/methanol/water (6 mL) is stirred at room temperature 1.5 h. The reaction is concentrated under reduced pressure. The residue is washed with 1N hydrochloric acid (aq), then chloroform, and the solid is dried under reduced pressure to give the title compound. ESI MS m/z 578.2 [M+H]+.

reactant | Methyl 3-(2-{3-[({(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]phenyl}-1,3-oxazol-5-yl)propanoate | 0.12 mmol, 70 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C(C=CC2)C=2OC(=CN2)CCC(=O)OC)C=C(C1)F | C33H35F2N3O5
reactant | lithium hydroxide monohydrate | 0.24 mmol, 10 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 6 mL | O1CCCC1.CO.O
product | 3-(2-{3-[({(1S,2R)-1-(3,5-Difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}amino)carbonyl]phenyl}-1,3-oxazol-5-yl)propanoic acid | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(=O)C=2C=C(C=CC2)C=2OC(=CN2)CCC(=O)O)C=C(C1)F | C32H33F2N3O5
